US08022062B2
2,2,2-Trifluoro-N-(4-hydroxy-benzyl)-acetamide:
Dissolve under nitrogen atmosphere 2,2,2-trifluoro-N-(4-methoxybenzyl)-acetamide (11.6 g, 50 mmol) in DCM (250 mL). Cool to 0° C. in an ice bath. Add dropwise 1M boron tribromide in DCM (100 mL, 100 mmol) and stir for 20 min after addition. Warm to ambient temperature and stir for 16 h. Cool the reaction mixture in an ice bath and quench very carefully with saturated aqueous NaHCO3. Separate the organic layer. Extract the aqueous layer twice with chloroform. Dry the combined organic extracts over-Na2SO4 and concentrate in vacuo to obtain the desired intermediate (8.8 g, 40 mmol). MS (ES−) m/z: 218 (M−H)−.

reactant | 2,2,2-trifluoro-N-(4-methoxybenzyl)-acetamide | 50 mmol, 11.6 g | FC(C(=O)NCC1=CC=C(C=C1)OC)(F)F | C10H10F3NO2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mmol, 100 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-(4-hydroxy-benzyl)-acetamide | 40 mmol, 8.8 g | FC(C(=O)NCC1=CC=C(C=C1)O)(F)F | C9H8F3NO2
